US04613676
Z-Phe-Phe-Leu-Val-Ile-His-NH2
In a manner analogous to that described in Example 1, using as starting materials 54 mg of Z-Phe-Phe-OH(Bachem AG, Bubendorf, Switzerland) and 75 mg of H-Leu-Val-Ile-His-NH2, the title compound is obtained after the addition of 26 mg of HOBt and 42 mg of DCCI and chromatographic purification over a LOBAR® prefabricated column (eluant: methylene chloride/methanol/water 50:10:1). Rf (B10)=0.35.

reactant | Z-Phe-Phe-OH | 54 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C26H26N2O5
reactant | H-Leu-Val-Ile-His-NH2 | 75 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N | C23H41N7O4
product | Z-Phe-Phe-Leu-Val-Ile-His-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C49H65N9O8
